US05215982
A mixture of acetic anhydride {19.5 ml) and formic acid [15.7 ml) was stirred at room temperature for 45 minutes. The mixture was cooled at 5° C and -(2-aminoethyl)-1H-imidazo[1,2-b]pyrazole was added thereto. The mixture was stirred for 1 hour under ice-cooling. The reaction mixture was evaporated and the residue was subjected to column chromatography on silica gel using a mixture of ethyl acetate and methanol (9:1) as eluent. Fractions containing the object compound were combined and evaporated to give 1-(2-formylaminoethyl)-1H-imidazo[1,2-b]pyrazole (7 g).

reactant | acetic anhydride | 19.5 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | (2-aminoethyl)-1H-imidazo[1,2-b]pyrazole | NCCN1C=CN2N=CC=C21 | C7H10N4
solvent | formic acid | C(=O)O | CH2O2
product | 1-(2-formylaminoethyl)-1H-imidazo[1,2-b]pyrazole | 7 g | C(=O)NCCN1C=CN2N=CC=C21 | C8H10N4O
